US03984407
3-[2-(2-pyridyl)ethyl]indene
This compound is prepared as described by Dressler and Kurland J. O. C. 29, 175 (1964). Under nitrogen gas, 500 g. indene plus 5 g. potassium t-butoxide are stirred and heated to 130°. 2-Vinyl pyridine (220 g., 2.0 M) is added dropwise over a period of 1 hour keeping the temperature at 135°-145°C. during addition and for 2 hours after addition is completed. The reaction mixture is cooled and 25 ml. acetic acid is added, followed by filtration. A flash distillation yields 395 g. (84%) crude product boiling 160°-175°/0.3 mm. This is redistilled to give 353 g. (75%) of oil (3-[2-(pyridyl)ethyl]indene) boiling point 135°-140°/0.1 mm.

reactant | indene | C1C=CC2=CC=CC=C12 | C9H8
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | 2-Vinyl pyridine | 2.0 M, 220 g | C(=C)C1=NC=CC=C1 | C7H7N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-[2-(2-pyridyl)ethyl]indene | N1=C(C=CC=C1)CCC1=CCC2=CC=CC=C12 | C16H15N
